Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9].[O:1]=[C:2],2.3078936099400003
[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])=[O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.0638175686799998
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([O:6])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]1([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.0118947751498
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.34347227492
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.03807221346
[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-3.28834822209
[O:1]=[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1][C:2]#[C:3][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.26882101197
[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.953825913539999
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.3540856812
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.70719905642
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3],1.95418640712
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.8423314688
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.42490646364
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-1.7044388093399998
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.74165200809
[C:1]=[C:2]([C:3]([H:4])=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])#[C:5][O:6],3.57336821207
[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:10][H:11].[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.54644093146
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.06338506572
[O:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]1([H:9])[H:10]>>[O:1][O:2][C:3][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10],3.93577294177
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-2.15206583187
[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4].[C:5][C:6]([H:7])([H:8])[H:9],6.04557707231
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],5.11785154512
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10][H:11],5.19525861499
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.73366148431
[C:4]([H:5])([O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-5.15544913519
[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.13704070226
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],3.01277015351
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:4],1.92455984379
[O:1]=[C:2]([C:3]([H:4])=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8],0.0414102467394
